US05256629
Preparation of 2-[3-(α-Hydroxy-5-methyl-2-thenyl)-5-methyl-2-pyridyl]-4-isopropyl-4-methyl-2-imidazolin-5-one
A stirred solution of 4-isopropyl-4-methyl-2-(5-methyl-2-pyridyl)-2-imidazolin-5-one (10.0 g, 0.043 mol) in anhydrous tetrahydrofuran (200 mL) is cooled to -78° C. and treated with a 1.5 molar solution of methyl lithium in diethyl ether (60.6 mL). The resultant suspension is stirred at -78° C. for 30 minutes and at 0° C. for 30 minutes. The reaction mixture is recooled to -78° C. and 5-methyl-2-thiophenecarboxaldehyde (15.35 g, 0.043 mol) is added dropwise. After 30 minutes, the cooling bath is removed and the reaction mixture is stirred at room temperature overnight then diluted with water. The aqueous mixture is acidified to pH 6 with acetic acid and extracted with diethyl ether. The combined organic extracts are washed with water, dried (Na2SO4) and concentrated in vacuo to obtain an orange oil. Chromatography of the oil using silica gel and a 20% diethyl ether in methylene chloride mixture gives a yellow oil which is triturated with diethyl ether to obtain the title product as a white solid (2.0 g, mp 147°-148° C.)

reactant | 4-isopropyl-4-methyl-2-(5-methyl-2-pyridyl)-2-imidazolin-5-one | 0.043 mol, 10.0 g | C(C)(C)C1(N=C(NC1=O)C1=NC=C(C=C1)C)C | C13H17N3O
reactant | methyl lithium | C[Li]
reactant | 5-methyl-2-thiophenecarboxaldehyde | 0.043 mol, 15.35 g | CC1=CC=C(S1)C=O | C6H6OS
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | 60.6 mL | C(C)OCC | C4H10O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-[3-(α-Hydroxy-5-methyl-2-thenyl)-5-methyl-2-pyridyl]-4-isopropyl-4-methyl-2-imidazolin-5-one | 2.0 g | OC(C1=CC=C(S1)C)C=1C(=NC=C(C1)C)C=1NC(C(N1)(C)C(C)C)=O | C19H23N3O2S
